US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine
Combine 1-(3,4,5-trimethoxy-benzoyl)-3-phenyl-3-(2-methanesulfonyl-ethyl)-pyrrolidine (0.60 g, 1.30 mmol) and 4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidine (0.66 g, 1.95 mmol), and diisopropylethylamine (0.453 mL, 2.60 mmol) in chlorobenzene (8 mL). Heat to reflux. After 18 hours, partition the residue between ethyl acetate and water. Extract the organic layer 3 times with water and 1 time with saturated sodium chloride solution. Dry the organic layer over Na2So4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 10/1/0.1 ethyl acetate/methanol/concentrated aqueous ammonium hydroxide to give the title compound: Rf=0.15 (silica gel, 10/1/0.1 ethyl acetate/methanol/concentrated aqueous ammonium hydroxide).

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-phenyl-3-(2-methanesulfonyl-ethyl)-pyrrolidine | 1.30 mmol, 0.60 g | COC=1C=C(C(=O)N2CC(CC2)(CCS(=O)(=O)C)C2=CC=CC=C2)C=C(C1OC)OC | C23H29NO6S
reactant | 4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidine | 1.95 mmol, 0.66 g | FC1=CC=C(CN2C(=NC3=C2C=CC=C3)C(=O)C3CCNCC3)C=C1 | C20H20FN3O
reactant | diisopropylethylamine | 2.60 mmol, 0.453 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | chlorobenzene | 8 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=C(C1OC)OC | C42H45FN4O5
